US06521643B1
A suspension of 3-(3-methoxypyridin-2-yl)nitrobenzene (0.391 g) in ethanol (8 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 120 mg) under a hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(3-methoxypyridin-2-yl)aniline (0.34 g).

reactant | 3-(3-methoxypyridin-2-yl)nitrobenzene | 0.391 g | COC=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H10N2O3
solvent | ethanol | 8 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 120 mg | [Pd] | Pd
product | 3-(3-methoxypyridin-2-yl)aniline | 0.34 g | COC=1C(=NC=CC1)C=1C=C(N)C=CC1 | C12H12N2O
